US05102877
To a solution of N-t-butyloxycarbonyl-N-{3-(1-methanesulfonyloxyethyl)-4-(tetrahydropyran-2-yloxy)pentyl}amine (17 g) in dimethylformamide (200 ml) was added sodium hydride (6.6 g in 60% oil) at 0° C. After stirring for 4 hours at 38° C., the solution was poured into a mixture of ethyl acetate (400 ml) and water (400 ml). The organic layer was washed with water, 1N-hydrochloride solution, saturated sodium bicarbonate, and brine successively. The dried solution was evaporated and then the residue was chromatographed on silica gel eluting with a mixture of hexane and ethyl acetate (3:1, V/V) to give 1-t-butyloxycarbonyl-2-methyl-3-(1-tetrahydropyranyloxyethyl)pyrrolidine (10.5 g).

reactant | N-t-butyloxycarbonyl-N-{3-(1-methanesulfonyloxyethyl)-4-(tetrahydropyran-2-yloxy)pentyl}amine | 17 g | C(C)(C)(C)OC(=O)NCCC(C(C)OC1OCCCC1)C(C)OS(=O)(=O)C | C18H35NO7S
reactant | sodium hydride | 6.6 g | [H-].[Na+]
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 400 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-t-butyloxycarbonyl-2-methyl-3-(1-tetrahydropyranyloxyethyl)pyrrolidine | 10.5 g | C(C)(C)(C)OC(=O)N1C(C(CC1)C(C)OC1OCCCC1)C | C17H31NO4
